US04513002
A mixture of 28.5 g of lithium aluminum hydride and 300 ml of dry dioxane, stirred under argon, is treated dropwise over a period of 1.25 hours with a solution of 230 g of 1-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)acetyl]-pyrrolidine in 700 ml of dry dioxane, whereby the mixture is heated to boiling under reflux. 10 minutes after completion of the addition, the mixture is cooled to about 10°-15° and excess lithium aluminum hydride is destroyed by the cautious addition of 200 ml of ethyl acetate, the temperature rising to about 40°. The mixture is subsequently cooled to about 10° and hydrolyzed by the slow dropwise addition of about 250 ml of water while cooling well. The mixture is suction filtered while back-washing with about 200 ml of chloroform and the filtrate is evaporated in vacuo. The residual brown oil is taken up in 1 l of ether and extracted successively with 300 ml of 2N hydrochloric acid, 150 ml of 2N hydrochloric acid and twice with 100 ml of water each time. The acid-aqueous phase is made basic with about 100 ml of 28 percent sodium hydroxide while cooling with ice and extracted successively with 500 ml of hexane and twice with 300 ml of hexane each time. The organic extracts are washed twice with 250 ml of saturated sodium chloride solution each time and twice with 250 ml of distilled water each time, dried over magnesium aluminum in the presence of a spatula tip of active carbon and evaporated in vacuo. After drying the residue at 40° in a high vacuum, there is obtained 1-[2-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine as a light yellow oil which crystallizes slowly; m.p. 51°-53°. By distillation of the crude base under argon over a Hickmann head at 163°-165°/0.09 Torr there is obtained pure material of melting point 53.5°-54°.

reactant | lithium aluminum hydride | 28.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)acetyl]-pyrrolidine | 230 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC(=O)N3CCCC3 | C21H23NO
solvent | dioxane | 700 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)ethyl]pyrrolidine | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCN3CCCC3 | C21H25N
